US09388189B2
(S)-2-(1-((5-(1-(2-Hydroxyethyl)-1H-pyrazol-3-yl)-7-((2-(trimethylsilyl)ethoxy)methyl)-7H-pyrrolo[2,3-d]pyrimidin-4-yl)amino)ethyl)-5-methyl-3-phenylpyrrolo[2,1-f][1,2,4]triazin-4(3H)-one
(S)-2-(1-((5-(1H-Pyrazol-3-yl)-7-((2-(trimethylsilyl)ethoxy)methyl)-7H-pyrrolo[2,3-d]pyrimidin-4-yl)amino)ethyl)-5-methyl-3-phenylpyrrolo[2,1-f][1,2,4]triazin-4(3H)-one (38 mg, 0.07 mmol) and 2-bromoethanol (15 mg, 0.12 mmol) were dissolved in DMF (1.5 ml) and cesium carbonate (102 mg, 0.31 mmol) was added. After stirring the mixture at 75° C. for 2 h, the solvent was evaporated under reduced pressure and the residue was suspended in water, basified with sodium carbonate and extracted with ethyl acetate (×3). The organic phase was successively washed with water and brine, dried over magnesium sulphate, filtered and the solvent evaporated under reduced pressure. The residue (31 mg, 96% purity) was used in the next synthetic step without further purification.

reactant | (S)-2-(1-((5-(1H-Pyrazol-3-yl)-7-((2-(trimethylsilyl)ethoxy)methyl)-7H-pyrrolo[2,3-d]pyrimidin-4-yl)amino)ethyl)-5-methyl-3-phenylpyrrolo[2,1-f][1,2,4]triazin-4(3H)-one | 0.07 mmol, 38 mg | N1N=C(C=C1)C1=CN(C=2N=CN=C(C21)N[C@@H](C)C2=NN1C(C(N2C2=CC=CC=C2)=O)=C(C=C1)C)COCC[Si](C)(C)C | C30H35N9O2Si
reactant | 2-bromoethanol | 0.12 mmol, 15 mg | BrCCO | C2H5BrO
reactant | cesium carbonate | 0.31 mmol, 102 mg | C([O-])([O-])=O.[Cs+].[Cs+]
solvent | DMF | 1.5 ml | CN(C)C=O | C3H7NO
product | (S)-2-(1-((5-(1-(2-Hydroxyethyl)-1H-pyrazol-3-yl)-7-((2-(trimethylsilyl)ethoxy)methyl)-7H-pyrrolo[2,3-d]pyrimidin-4-yl)amino)ethyl)-5-methyl-3-phenylpyrrolo[2,1-f][1,2,4]triazin-4(3H)-one | OCCN1N=C(C=C1)C1=CN(C=2N=CN=C(C21)N[C@@H](C)C2=NN1C(C(N2C2=CC=CC=C2)=O)=C(C=C1)C)COCC[Si](C)(C)C | C32H39N9O3Si
